US07728150B2
(1H-Indol-7-yl)-carbamic acid benzyl ester
Equip a 12-L reaction flask with a cooling bath, air driven stirring apparatus, addition funnel, and thermometer probe. Thoroughly purge the flask with nitrogen, charge 7-aminoindole (352 g, 2.663 moles), CH2Cl2 (5.30 L, 15 volumes) and 2N NaOH (1.76 L, 3.515 moles). After cooling the biphasic solution to less than 10° C., benzyl chloroformate (500 g, 2.929 moles) add dropwise at such a rate so as to maintain the temperature at less than 10° C. over one hour. Stir the reaction vigorously for 1 hour until complete by TLC. Separate the layers and extract the aqueous layer with CH2Cl2 (1.7 L). Combine the organic layers, wash with 2N NaOH (2×2 L), and dry over Na2SO4. After filtering off the drying agent, concentrate the filtrate in vacuo to a volume of ˜1.5 L resulting in thin dark mixture. Gradually exchange the solvent using heptane (˜4 L) to form a thick sand-like slurry and increase the bath temperature to 50-60° C. Concentrate to a volume of ˜1.5 L, filter while hot (50-60° C.), wash with warm (45° C.) heptane (1 L) and RT heptane (1 L), and dry to yield 683.5 g (96.7%) of the title compound as light purple solid. 1H-NMR(DMSO-d6, 300 MHz), δ 10.79 (br s, 1H), 9.42 (br s, 1H), 7.20-7.56 (m, 8H), 6.92 (t, 1H), 6.41 (dd, 1H), 5.18(s, 1H).

reactant | 7-aminoindole | 2.663 moles, 352 g | NC=1C=CC=C2C=CNC12 | C8H8N2
reactant | CH2Cl2 | 5.30 L | C(Cl)Cl | CH2Cl2
reactant | NaOH | 3.515 moles, 2N, 1.76 L | [OH-].[Na+]
reactant | benzyl chloroformate | 2.929 moles, 500 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | heptane | ˜4 L | CCCCCCC | C7H16
product | (1H-Indol-7-yl)-carbamic acid benzyl ester | 683.5 g, 96.7% | C(C1=CC=CC=C1)OC(NC=1C=CC=C2C=CNC12)=O | C16H14N2O2
